US06586617B1
Synthesis of N-Allyl-4′-chloro-2′-nitro-p-toluenesulfonanilide (Compound No.299)
To a suspension of sodium hydride (60%, 0.05 g (1.25 mmol)) in DMF (2.0 ml), 4′-chloro-2′-nitro-p-toluenesulfonanilide (0.30 g (0.92 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, allyl bromide (0.50 ml (5.78 mmol)) was added dropwise. After being stirred for 30 minutes' at 50° C. and for 15 hours at room temperature, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. Diisopropyl ether was added to the residue, and the crystals separated was filtered and washed to give 0.21 g (62%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 1.25 mmol, 0.05 g | [H-].[Na+]
reactant | 4′-chloro-2′-nitro-p-toluenesulfonanilide | 0.92 mmol, 0.30 g | ClC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-] | C13H11ClN2O4S
reactant | allyl bromide | 5.78 mmol, 0.50 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-Allyl-4′-chloro-2′-nitro-p-toluenesulfonanilide | 0.21 g, 62% | C(C=C)N(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C16H15ClN2O4S
